US07176242B2
Methyl 3-{[[2-(diethylamino)ethyl](methyl)amino]methyl}-5-methylbenzoate
To an ice-cold, stirred solution of methyl 3-(hydroxymethyl)-5-methylbenzoate (200 mg, 1.19 mmol) and triethylamine (241 mg, 2.38 mmol) in methylene chloride (5 mL) is added methanesulfonyl chloride (191 mg, 1.67 mmol). The reaction mixture is stirred for 15 min, the precipitate that formed is removed by filtration, and N,N-diethyl-N′-methylethylenediamine (465 mg, 3.57 mmol) was added. The reaction mixture is stirred at room temperature for 2 h and then concentrated under reduced pressure. Purification by flash column chromatography (silica, 9:1 chloroform/methanol) gives the title compound. 1H NMR (300 MHz, CDCl3) δ 8.02 (s, 2H), 7.33 (s, 1H), 3.56 (s, 3H), 3.48 (s, 2H), 2.95 (m, 4H), 2.75 (m, 4H), 2.41 (s, 3H), 2.31 (s, 3H), 1.21 (m, 6H).

reactant | methyl 3-(hydroxymethyl)-5-methylbenzoate | 1.19 mmol, 200 mg | OCC=1C=C(C(=O)OC)C=C(C1)C | C10H12O3
reactant | triethylamine | 2.38 mmol, 241 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.67 mmol, 191 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | N,N-diethyl-N′-methylethylenediamine | 3.57 mmol, 465 mg | C(C)N(CCNC)CC | C7H18N2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-{[[2-(diethylamino)ethyl](methyl)amino]methyl}-5-methylbenzoate | C(C)N(CCN(C)CC=1C=C(C(=O)OC)C=C(C1)C)CC | C17H28N2O2
